US08497368B2
(E)-3-(1-(3-((5,7-Difluoroquinolin-6-yl)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)ethylideneamino)oxazolidin-2-one
The title compound was prepared from 3-aminooxazolidin-2-one and 1-(3-((5,7-difluoroquinolin-6-yl)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)ethanone in 86% yield as white solid using the same procedure as described in the synthesis of example 40. 1H-NMR (400 MHz, DMSO-d6) δ ppm 9.00 (d, 1H), 8.50 (d, 1H), 8.33 (d, 1H); 7.87 (d, 1H), 7.75 (d, 1H), 7.63 (dd, 1H), 4.81 (s, 2H), 4.49 (t, 2H), 4.05 (t, 2H), 2.33 (s, 3H). LCMS (method A): [MH]+=424, tR=4.54 min.

reactant | 3-aminooxazolidin-2-one | NN1C(OCC1)=O | C3H6N2O2
reactant | 1-(3-((5,7-difluoroquinolin-6-yl)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)ethanone | FC1=C2C=CC=NC2=CC(=C1CC1=NN=C2N1N=C(C=C2)C(C)=O)F | C17H11F2N5O
product | (E)-3-(1-(3-((5,7-Difluoroquinolin-6-yl)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)ethylideneamino)oxazolidin-2-one | 86% yield | FC1=C2C=CC=NC2=CC(=C1CC1=NN=C2N1N=C(C=C2)\C(\C)=N\N2C(OCC2)=O)F | C20H15F2N7O2
